US05034417
Sodium borohydride (0.2 g) was added portionwise to a solution of 4'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide (1.55 g) in methanol (30 ml) at 15° C. The mixture was stirred overnight at room temperature, treated with acetic acid, and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with an aqueous solution of sodium bicarbonate, dried, and concentrated. The residual oil (1.6 g) was purified by column chromatography on silica gel (50 g) eluting with a mixture of toluene and ethyl acetate (4:1). The purified product was recrystallized from a mixture of ethanol and water (2:1) to give crystals of 2'-(2,4-difluorophenylthio)-4'-(1-hydroxyethyl)methanesulfonanilide (1.03 g).

reactant | Sodium borohydride | 0.2 g | [BH4-].[Na+]
reactant | 4'-acetyl-2'-(2,4-difluorophenylthio)methanesulfonanilide | 1.55 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C15H13F2NO3S2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
product | 2'-(2,4-difluorophenylthio)-4'-(1-hydroxyethyl)methanesulfonanilide | 1.03 g | FC1=C(C=CC(=C1)F)SC1=C(NS(=O)(=O)C)C=CC(=C1)C(C)O | C15H15F2NO3S2
